US09290511B2
Tert-butyl-5-(2-tetrahydropyran-2-yloxyethoxy)-2-azabicyclo[2.2.1]heptane-2-carboxylate (1.08 g, 3.16 mmol) was stirred overnight in 5 M hydrochloric acid (30 mL, 990 mmol)/THF (30 mL). The reaction mixture was basified with NaOH and washed with DCM. The organic was dried over Na2SO4 and concentrated in vacuo to afford 2-(2-azabicyclo[2.2.1]heptan-5-yloxy)ethanol (350 mg). LCMS RT=0.57 min. M+1=158.

reactant | Tert-butyl-5-(2-tetrahydropyran-2-yloxyethoxy)-2-azabicyclo[2.2.1]heptane-2-carboxylate | 3.16 mmol, 1.08 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)C2)OCCOC2OCCCC2 | C18H31NO5
reactant | hydrochloric acid | 990 mmol, 5 M, 30 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-azabicyclo[2.2.1]heptan-5-yloxy)ethanol | 350 mg | C12NCC(C(C1)OCCO)C2 | C8H15NO2
